US08980392B2
1-(3-(triethoxysilyl)propyl)-1H-pyrrole (according to formula (VIc))
A solution of butyllithium (1.6 M in hexane, 187 mL, 0.3 mol) is added in 1 hour to a solution of pyrrole (20 g, 0.3 mol) in THF (200 ml) cooled to −10° C. This solution is kept at 0° C. for 1 hour. 72.3 g of 3-chloropropyltriethoxysilane (0.3 mol) is added to this solution, then the temperature of the reaction mixture is raised to +65° C. for 8 hours. After the temperature of the reaction mixture has returned to 20° C., the THF is evaporated under vacuum. The raw product is taken up in cyclohexane (150 mL), the salts of lithium chloride are filtered and the aqueous solution is washed with 50 mL of distilled water. The organic phase is dried over magnesium sulfate and the solvent is evaporated under vacuum. The desired product (57.8 g) is then recovered.

reactant | butyllithium | 0.3 mol, 1.6 M, 187 mL | C(CCC)[Li]
reactant | pyrrole | 0.3 mol, 20 g | N1C=CC=C1 | C4H5N
reactant | 3-chloropropyltriethoxysilane | 0.3 mol, 72.3 g | ClCCC[Si](OCC)(OCC)OCC | C9H21ClO3Si
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 1-(3-(triethoxysilyl)propyl)-1H-pyrrole | C(C)O[Si](CCCN1C=CC=C1)(OCC)OCC | C13H25NO3Si
